US05750530
Preparation of 4-(2-Dimethylaminoethylthio)benzaldehyde (5127)
2-dimethylaminoethanethiol hydrochloride (1.00 g, 7.06 mmol) was suspended in dry DMSO (20 ml) and sodium hydride (60% in mineral oil, 593 mg, 2.1 equivs) was added. The reaction mixture was left stirring for 40 mins to form Me2NCH2CH2SNa, before 4-bromobenzaldehyde (1.193 g, 1 eq) was added, and the reaction mixture was then warmed to 90° C. under nitrogen. After 1 hour at 90°-100° C. analysis by thin layer chromatography (tlc) indicated almost complete disappearance of the starting material. The reaction mixture was therefore cooled, ethyl acetate was added and the mixture washed with sodium carbonate solution and brine. The mixture was then extracted with HCl (2N), basified and re-extracted with dichloromethane, dried over magnesium sulphate and the solvent was removed in vacuo to give the title compound as a yellow oil (73%).

reactant | 2-dimethylaminoethanethiol hydrochloride | 7.06 mmol, 1.00 g | Cl.CN(CCS)C
reactant | sodium hydride | 593 mg | [H-].[Na+]
reactant | 4-bromobenzaldehyde | 1.193 g, 1 eq | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 4-(2-Dimethylaminoethylthio)benzaldehyde | 73% | CN(CCSC1=CC=C(C=O)C=C1)C | C11H15NOS
